US08614239B2
Preparation of Cyclopropane sulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)-benzofuran-7-yl]amide (2A)
Potassium trimethyl silanolate (0.019 g, 0.1498 mmol) was added to a solution of 1-(cyclopropylsulfonyl)-4,5-difluoro-3-(2-fluoro-4-iodophenyl)-1H-benzofuro[6,7-d]imidazol-2(3H)-one (0.04 g, 0.0749 mmol) in THF (5 mL) at 0° C. The reaction mass was stirred for 4 hours at 20-35° C. The reaction was monitored by TLC (25% ethyl acetate in hexane). The reaction mass was diluted with DCM (50 mL) and partitioned between water and DCM. The organic layer was washed with water, brine solution and concentrated under reduced pressure to afford the crude product. Purification by column chromatography on silica gel (20% ethyl acetate in hexane) afforded 0.025 g of the product (66% yield). 1H NMR (CDCl3, 300 MHz): δ 7.72 (d, 1H), 7.40 (dd, 1H), 7.28 (d, 1H), 6.99 (d, 1H), 6.95 (bs, 1H), 6.38-6.641 (t, bs, 2H), 2.58-2.62 (m, 1H), 1.11-1.19 (m, 2H), 0.83-0.98 (m, 2H). LCMS: 96.54%, m/z=506.7 (M−1). HPLC: 96.31%

reactant | Potassium trimethyl silanolate | 0.1498 mmol, 0.019 g | C[Si]([O-])(C)C.[K+]
reactant | 1-(cyclopropylsulfonyl)-4,5-difluoro-3-(2-fluoro-4-iodophenyl)-1H-benzofuro[6,7-d]imidazol-2(3H)-one | 0.0749 mmol, 0.04 g | C1(CC1)S(=O)(=O)N1C(N(C2=C1C1=C(C=CO1)C(=C2F)F)C2=C(C=C(C=C2)I)F)=O | C18H10F3IN2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Cyclopropane sulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)-benzofuran-7-yl]amide | 0.025 g, 66% yield | FC1=C(C(=C(C2=C1C=CO2)NS(=O)(=O)C2CC2)NC2=C(C=C(C=C2)I)F)F | C17H12F3IN2O3S
